US06252070B1
a. Preparation of 1F: N-(2-Trifluoromethyl-phenyl)-benzenesulfonamide
Benzenesulfonyl chloride (400 g, 2.26 moles) was dissolved in dichloromethane (2 L). To this was added o-trifluoromethylaniline (250 mL, 320 g, 1.99 mol), pyridine (222 mL), and DMAP (7.5 g). The resulting solution was stirred at room temperature for 3 days (72 h), then heated to reflux for 1 hour. The cooled solution was then concentrated on the rotary evaporator, with the bath temperature gradually raised to 70° C. The residue was taken up in ether (3 L) and 1N HCl (1.5 L). The ether layer was separated, washed 2×500 mL with 1N HCl, 1×1 L with brine, 1×1 L with saturated sodium bicarbonate, and once more with 1 L of brine. It was then dried over magnesium sulfate, filtered with suction, and concentrated on the rotary evaporator without heat. The product formed fine crystals as the ether evaporated, and when most of the ether was gone, the crystals were slurried with hexane (2 L), collected with suction and dried. Yield 571 g, 84%.

reactant | Benzenesulfonyl chloride | 2.26 moles, 400 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | o-trifluoromethylaniline | 1.99 mol, 250 mL, 320 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | pyridine | 222 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
catalyst | DMAP | 7.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(2-Trifluoromethyl-phenyl)-benzenesulfonamide | FC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)(F)F | C13H10F3NO2S
